US04521599
To 9.45 g (0.034M) of methylthiopseudourea H2SO4 is added 40.0 ml of H2O+8.0 g (0.142M) of KOH. With vigorous stirring, 12.0 g (0.0625M) of ethyl benzoylacetate (Aldrich) is also added and the heterogeneous mixture allowed to stir at ambient temperature for 18 hours. The resulting solids are filtered and washed very well with H2O followed by ether. The solids are dried at 60° C. in a vacuum oven to yield 7.20 g (61.3 percent) of 2-amino-6-phenyl-1,3-oxazine-4-one. An analytical sample is recrystallized from 95 percent EtOH:DMF to yield 2-amino-6-phenyl-1,3-oxazine-4-one (m.p. 244-246 d).

reactant | methylthiopseudourea H2SO4 | 0.034M, 9.45 g | CNC(S)=N.OS(=O)(=O)O
reactant | KOH | [OH-].[K+]
reactant | ethyl benzoylacetate | 0.0625M, 12.0 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
solvent | H2O | 0.142M, 40.0 ml, 8.0 g | O | H2O
product | 2-amino-6-phenyl-1,3-oxazine-4-one | 7.20 g, 61.3 percent | NC=1OC(=CC(N1)=O)C1=CC=CC=C1 | C10H8N2O2
